US08012966B2
The stirred mixture of acetic acid 1-(5-fluoro-2-oxo-2,3-dihydro-1H-indol-6-ylcarbamoyl)-ethyl ester (750 mg, 2.67 mmol) in methanol (5 ml) and water (5 ml) was added with sodium hydroxide (240 mg, 60 mmol). The resulting mixture was stirred at room temperature overnight and concentrated under reduced pressure. The residue was extracted with ethyl acetate (100×3) and water (100×3). The organic extracts were dried with anhydrous sodium sulfate, filtered and concentrated under reduced pressure to give (S)—N-(5-Fluoro-2-oxo-2,3-dihydro-1H-indol-6-yl)-2-hydroxy-propionamide (270 mg, 42%) as a white solid.

reactant | acetic acid 1-(5-fluoro-2-oxo-2,3-dihydro-1H-indol-6-ylcarbamoyl)-ethyl ester | 2.67 mmol, 750 mg | FC=1C=C2CC(NC2=CC1NC(=O)C(C)OC(C)=O)=O | C13H13FN2O4
reactant | sodium hydroxide | 60 mmol, 240 mg | [OH-].[Na+]
solvent | methanol | 5 ml | CO | CH4O
solvent | water | 5 ml | O | H2O
product | (S)—N-(5-Fluoro-2-oxo-2,3-dihydro-1H-indol-6-yl)-2-hydroxy-propionamide | 270 mg, 42% | FC=1C=C2CC(NC2=CC1NC([C@H](C)O)=O)=O | C11H11FN2O3
